US09238640B2
(2-Chloroacetyl)-urea (0.68 g, 5.00 mmol) and isopropylamine (0.86 mL, 10.0 mmol) in DMF (10 mL) was stirred for 6 h at room temperature and then heated to 135° C. for 4 hours. DMF was removed under vacuum and the residue was purified by column chromatography (silica gel 230-400 mesh; eluting with hexane:dichloromethane:ethyl acetate 2.5:1.0:0.5) to give 1-isopropyl-imidazolidine-2,4-dione as a white solid. Yield: 0.20 g (28%).

reactant | (2-Chloroacetyl)-urea | 5.00 mmol, 0.68 g | ClCC(=O)NC(=O)N | C3H5ClN2O2
reactant | isopropylamine | 10.0 mmol, 0.86 mL | C(C)(C)N | C3H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-isopropyl-imidazolidine-2,4-dione | C(C)(C)N1C(NC(C1)=O)=O | C6H10N2O2
